data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_271185_0,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])(/[N:7]=[C:5](\[O:6][H:8])[H:11])([H:9])[H:10]>>[C:1](=[N:7][C@:5]([N:4]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([O:6][H:8])[H:11])([H:9])[H:10],59.630697500006846
MR_503183_0,[N:1]([N:3]([H:10])[H:11])([C:4](=[C:2]([O:5][H:8])[O:6][H:7])[H:12])[H:9]>>[N:1](\[N:3]([H:10])[H:11])=[C:4](/[C:2]([O:5][H:8])([O:6][H:7])[H:9])[H:12],68.04986500000936
MR_163604_0,[C:1]([O:5][C:3]1([O:6][H:8])/[C:2](=[N:7]/[H:9])[C:4]1([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([O:5]/[C:2]([C:3](=[C:4]([H:13])[H:14])[O:6][H:8])=[N:7]\[H:9])([H:10])([H:11])[H:12],55.21058749996641
MR_411558_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:13])([C:5](=[O:7])[H:10])([H:11])[H:12]>>[C:1](=[C:3]([N:4]([H:8])[H:9])[C:6]([C:2]([H:14])([H:15])[H:16])([C:5](=[O:7])[H:10])[H:13])([H:11])[H:12],48.24596500000112
MR_593422_2,[C:1]([C@:2]([C:3]([H:14])([H:15])[H:16])([O:8][H:12])[H:13])([O:4][O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([C@@:2]([C:3]([H:14])([H:15])[H:16])([O:4][O:5][H:9])[H:13])([O:6][H:10])([O:7][H:11])[O:8][H:12],63.5983799999768
MR_549892_2,[C:1]([C:2]([N:5]([H:11])[H:12])=[O:7])([C:3]([N:4]([H:9])[H:10])=[O:8])=[O:6]>>[C:1]([C:2]([C:3]([N:4]([H:9])[H:10])=[O:8])=[O:7])([N:5]([H:11])[H:12])=[O:6],61.884677499987504
MR_645503_1,[C:1]([C:3](=[C:2]([H:16])[H:18])[C:6]1([H:12])[C:5]([N:8]([N:4]([H:9])[H:10])[H:17])([H:11])[O:7]1)([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:2]([H:16])([H:17])[H:18])=[C:6]([O:7]/[C:5](=[N:8]/[N:4]([H:9])[H:10])[H:11])[H:12])([H:13])([H:14])[H:15],35.38598000001045
MR_456320_2,[C:1](=[C:6]([C:4]([H:17])([H:18])[H:19])[N:7]([C:2]([H:11])([H:12])[H:13])[C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])([H:9])[H:10]>>[C:1]([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]\[C:2]([H:11])([H:12])[H:13])([H:9])[H:10],69.23270249998353
MR_114660_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[N:3]\[C:5]([O:6][H:9])=[O:8])[O:7][H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:3]([C:5]([O:6][H:9])=[O:8])[H:10])=[O:7])([H:11])[H:12],28.140865000004283
MR_611959_1,[C:1]([N:2]([H:10])[H:11])(/[C:4](=[C:5](\[N:3]([H:12])[H:13])[H:15])[H:14])([O:6][H:8])[O:7][H:9]>>[C:1]1([N:2]([H:10])[H:11])([O:6][H:8])[C:4]([O:7][H:9])([H:14])[C:5]1([N:3]([H:12])[H:13])[H:15],57.36040250003171
MR_311474_1,[C:1]([C:3]([N:2]([N:5][O:6])[H:7])=[C:4]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:3](=[N:2]\[H:7])[C:4]([N:5]=[O:6])([H:11])[H:12])([H:8])([H:9])[H:10],35.77942250001584
MR_282439_0,[C:1]1([C:6]([C:7]([C:4]([H:16])([H:17])[H:21])[C:5]([H:18])([H:19])[H:20])[N:8]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[C:3]1([H:14])[H:15]>>[C:1]1([H:9])=[C:6]([N:8]([H:10])[H:11])[C:7]([C:4]([H:16])([H:17])[H:21])([C:5]([H:18])([H:19])[H:20])[C:3]([H:14])([H:15])[C:2]1([H:12])[H:13],60.512962499990834
MR_109404_1,[C:1](/[C:4]([N:5]([H:10])[H:11])=[C:6]([C:3](=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])/[O:8][H:9])\[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:5]([H:10])[H:11])[C:6]([H:12])=[C:3]([O:8][H:9])[C:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],53.448567499992095
MR_71621_0,[C:1](/[N:3]=[C:4](\[C:5]([C:2]([H:17])([H:18])[H:19])([C:7](=[C:8]([H:20])[H:21])[H:13])[O:9][H:10])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:17])([H:18])[H:19])[O:9][H:10])[N:6]([H:11])[H:12])[C:7](=[C:8]([H:20])[H:21])[H:13])([H:14])([H:15])[H:16],72.94812999998399
MR_334545_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:4]([N:6]([H:13])[H:14])=[O:8])([N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:4]([N:6]([H:13])[H:14])([O:8][H:9])[H:10])([N:5]([H:11])[H:12])=[O:7],61.457349999996325
MR_229149_1,[C:1]([N:2]1[C:3]2([N:5]([H:9])[H:10])[C:4]1([N:6]([H:11])[H:12])[C:7]([H:13])=[N:8]2)([H:14])([H:15])[H:16]>>[C:1]([n:2]1[c:3]([N:5]([H:9])[H:10])[n:8][c:7]([H:13])[c:4]1[N:6]([H:11])[H:12])([H:14])([H:15])[H:16],12.420734999993924
MR_687576_0,[C:1](/[C:3]([O:6][H:9])=[N:7]/[C:2]([H:13])([H:14])[H:15])([N:4]([H:11])[H:12])([N:8]=[C:5]([H:16])[H:17])[H:10]>>[C:1](\[C:3]([O:6][H:9])([N:7]([C:2]([H:13])([H:14])[H:15])[H:11])[N:8]=[C:5]([H:16])[H:17])(=[N:4]/[H:12])[H:10],51.82397000002752
MR_568783_1,[C:1]([N:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([N:4]([C:2]([H:17])([H:18])[H:19])/[C:7](=[N:8]/[H:15])[H:16])([H:13])[H:14]>>[C:1](/[N:3]=[N:5]/[H:9])([N:4]([C:2]([H:17])([H:18])[H:19])[C:7]([N:6]([H:11])[H:12])([N:8]([H:10])[H:15])[H:16])([H:13])[H:14],48.46245250002525
MR_285897_0,[C:1]([N:2](/[C:3]([N:4]([H:8])[H:9])=[N:7]/[H:11])/[N:5]=[N:6]\[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](/[N:4]([H:8])[H:9])[N:7](/[N:5]=[N:6]\[H:10])[H:11])([H:12])([H:13])[H:14],42.27216499995976
